US06809199B2
1.07 g of 5-bromo-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-7-nitro-3,4-dihydroquinazolin-2(1H)-one (1.99 mmol) were dissolved in 26 mL of toluene. Na2CO3 (1.26 g, 11.9 mmol), 2-chlorophenylboronic acid (934 mg, 5.97 mmol), and ethanol/water (6.4 mL:6.4 mL) were added under argon followed by Pd(Ph3P)4 (115 mg, 0.0995 mmol). The resulting reaction mixture was stirred at 100° C. for ca.4 h, cooled to rt, diluted with 150 mL of ethyl acetate, washed with 2×100 mL of saturated aqueous NaHCO3 and 100 mL of brine, dried over Na2SO4, and concentrated under reduced pressure. The product was purified by flash chromatography on Biotage 40M column, eluting with 80:20 hexanes-acetone to yield 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-7-nitro-3,4-dihydroquinazolin-2(1H)-one. Mass spectrum (ESI) 568.1 (M+1).

reactant | 5-bromo-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-7-nitro-3,4-dihydroquinazolin-2(1H)-one | 1.99 mmol, 1.07 g | BrC1=C2CN(C(N(C2=CC(=C1)[N+](=O)[O-])C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OC | C22H16BrCl2N3O4
reactant | Na2CO3 | 11.9 mmol, 1.26 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-chlorophenylboronic acid | 5.97 mmol, 934 mg | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | ethanol water | 6.4 mL | C(C)O.O
solvent | toluene | 26 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(Ph3P)4 | 0.0995 mmol, 115 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-7-nitro-3,4-dihydroquinazolin-2(1H)-one | ClC1=C(C=CC=C1)C1=C2CN(C(N(C2=CC(=C1)[N+](=O)[O-])C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OC | C28H20Cl3N3O4
